US07511055B2
Step 3: Trifluoro-methanesulfonic acid 2-chloro-[1,7]naphthyridin-8-yl ester
To a solution of 2-chloro-[1,7]naphthyridin-8-ol (0.89 g, 4.9 mmol) in 30 ml pyridine was added trifluoromethanesulfonic anhydride (1.06 ml, 6.41 mmol) at −10° C. The reaction mixture was allowed to warm to room temperature. After 1 h the pyridine was removed by Kugelrohrdistillation. Flash chromatography gave the title compound (0.99 g, 64%) as a light brown oil, MS m/e (%): 313 (M+H+, 100).

reactant | 2-chloro-[1,7]naphthyridin-8-ol | 4.9 mmol, 0.89 g | ClC1=NC2=C(N=CC=C2C=C1)O | C8H5ClN2O
reactant | trifluoromethanesulfonic anhydride | 6.41 mmol, 1.06 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | Trifluoro-methanesulfonic acid 2-chloro-[1,7]naphthyridin-8-yl ester | 0.99 g, 64% | ClC1=NC2=C(N=CC=C2C=C1)OS(=O)(=O)C(F)(F)F | C9H4ClF3N2O3S
